US06388040B1
A 1.5-1 autoclave purged completely with nitrogen and equipped with a stirrer was charged with 1 l of liquefied propylene, 40 g of 1-butene and 1 mmol of triethylaluminum, and the mixture was stirred at 40° C. for 15 minutes. Then ethylene was fed to the autoclave, the pressure was applied, and stirring was continued for 30 minutes, while keeping the pressure at 1.63 MPa. Further, 29 mg of the preactivated, supported metallocene catalyst as prepared above were added, and the polymerization was carried out for one hour, while keeping the internal temperature of the autoclave at 40° C. After completion of the polymerization, unreacted monomer was discharged, and the contents were taken out of the autoclave to obtain 72 g of a propylene/ethylene/1-butene terpolymer (PEB1). Analysis and determination for the physical properties of propylene/ethylene/1-butene terpolymer

reactant | propylene | 1 l | C=CC | C3H6
reactant | 1-butene | 40 g | C=CCC | C4H8
reactant | triethylaluminum | 1 mmol | C(C)[Al](CC)CC
reactant | ethylene | C=C | C2H4
reactant | PEB1 | C1=CC(=CC=C1C(C2=CC=C(C=C2)Cl)C(Cl)(Cl)Cl)Cl | C14H9Cl5
product | propylene/ethylene/1-butene | 72 g | C=CC.C=C.C=CCC | InChI=1S/C4H8.C3H6.C2H4/c1-3-4-2;1-3-2;1-2/h3H,1,4H2,2H3;3H,1H2,2H3;1-2H2
